US06844341B2
N,N-Dimethyl-N′-(6-chloropyridazin-3-yl)acetamidine
3-Amino-6-chloropyridazine (1.29 g, 10 mmol) was suspended in dry toluene (20 ml) and dimethylacetamide dimethyl acetal (1.46 ml, 10 mmol) was added. The mixture was stirred and heated at reflux for 3 hours and then left to stand at ambient temperature for 18 hours. Insolubles were removed from the reaction mixture by filtration and the filter washed with ethyl acetate. The filtrate was then evaporated and the residue triturated with isohexane, the solid product collected by filtration and washed with isohexane to give the title compound (1.7 g, 85%) as a yellow solid. NMR: (CDCl3) 2.13 (s, 3H), 3.1 (s, 6H), 6.92 (d, 1H), 7.25 (d, 1H); m/z: 199 [MH]+.

reactant | 3-Amino-6-chloropyridazine | 10 mmol, 1.29 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | dimethylacetamide dimethyl acetal | 10 mmol, 1.46 ml | COC(C)(N(C)C)OC | C6H15NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-N′-(6-chloropyridazin-3-yl)acetamidine | 1.7 g, 85% | CN(C(C)=NC=1N=NC(=CC1)Cl)C | C8H11ClN4
